US04291034
A mixture of 3.10 g of 7-chloro-3-(2,4-dichlorophenyl)-3,4-dihydro-1,9(2H,10H)-acridinedione and 1.6 g of N,N-dimethyl-1,3-propanediamine in 125 ml of ethanol is heated under reflux for 1.5 hrs. Approximately 65 ml of solvent is removed by distillation and the resulting turbid solution is filtered. The filtrate is diluted with 50 ml of ether and chilled to 0° C. The solid is collected and recrystallized from a mixture of dichloromethane/ethyl acetate. Dry in vacuo at 80° C. for 4 hrs gives 7-chloro-3-(2,4-dichlorophenyl)-1-[[3-(dimethylamino)propyl]imino]-1,3,4,10-tetrahydro-9(2H)acridinone; mp 168°-170° C.

reactant | 7-chloro-3-(2,4-dichlorophenyl)-3,4-dihydro-1,9(2H,10H)-acridinedione | 3.10 g | ClC1=CC=C2NC=3CC(CC(C3C(C2=C1)=O)=O)C1=C(C=C(C=C1)Cl)Cl | C19H12Cl3NO2
reactant | N,N-dimethyl-1,3-propanediamine | 1.6 g | CN(CCCN)C | C5H14N2
solvent | ethanol | 125 ml | C(C)O | C2H6O
product | 7-chloro-3-(2,4-dichlorophenyl)-1-[[3-(dimethylamino)propyl]imino]-1,3,4,10-tetrahydro-9(2H)acridinone | ClC1=CC=C2NC=3CC(CC(C3C(C2=C1)=O)=NCCCN(C)C)C1=C(C=C(C=C1)Cl)Cl | C24H24Cl3N3O
